US04221814
The procedure of Example 4 was repeated to react 2-(4-carboxybenzamido)-4-aminobenzoic acid with propionyl chloride, and the reaction product was treated as in Example 4 except that isopropyl alcohol was used as a solvent for recrystallization. The product obtained was a 62% yield of 2-(4-carboxybenzamido)-4-propionamidobenzoic acid having a melting point in the range of from 284° to 286° C. (decompose).

reactant | 2-(4-carboxybenzamido)-4-aminobenzoic acid | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=C1 | C15H12N2O5
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-carboxybenzamido)-4-propionamidobenzoic acid | 62% yield | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(CC)=O)C=C1 | C18H16N2O6
